US04808608
9-p-methoxybenzyl-6-fluoro-1,2,3,4-tetrahydrocarbazol-1-yl-acetic acid
Following the procedure of Example 1, but using 1-(4-methoxybenzyl)-1-(4-fluorophenyl)hydrazine hydrochloride and ethyl 2-cyclohexanone acetate as starting materials, the title compound was prepared.

reactant | 1-(4-methoxybenzyl)-1-(4-fluorophenyl)hydrazine hydrochloride | Cl.COC1=CC=C(CN(N)C2=CC=C(C=C2)F)C=C1
reactant | ethyl 2-cyclohexanone acetate | CCOC(=O)CC1CCCCC1=O | C10H16O3
product | 9-p-methoxybenzyl-6-fluoro-1,2,3,4-tetrahydrocarbazol-1-yl-acetic acid | COC1=CC=C(CN2C3=CC=C(C=C3C=3CCCC(C23)CC(=O)O)F)C=C1 | C22H22FNO3
